US07528166B2
Matairesinol Methylsuccinate
Monomethyl succinate (1 g, 7.56 mmol) was stirred in a flame dried round bottomed flask. Thionyl chloride was added (30 ml, 4.5 g) dropwise and the mixture was heated to 60° C. for 3 h. Then, excess thionyl chloride was remowed under reduced pressure and the residue was analysed by NMR spectroscopy. The fully chlorinated product was dissolved in 20 ml dry CH2Cl2 and dropwise added to a solution of matairesinol (1 g) in 40 ml CH2Cl2 and 1.8 g pyridine (8 eqv.) at 0° C. The mixture was stirred and allowed to warm to room temp over night. The mixture was then extracted with 2×50 ml water and the organic phase was dried and concentrated. The residue was chromatographed on a silica column (eluent EtOAc:PE 1:1) to yield a fraction containing the product. Yield 1.1 g (purity 80%, NMR, some other components present). The product was rechromatographed with CHCl3 to yield 0.92 g (70%) of a pure fraction containing two components, totally coeluting. The mixture was analysed with LC-MS (ESI-ion trap) and the components were identified as free matairesinol and matairesinol bis methylsuccinate (product). According to NMR analyses the product contained approximately 15% free matairesinol. It seems unlikely that the components can be separated by normal column chromatography. However, pure product can probably be obtained by varying the ratio of reagents (excess of acid chloride).

reactant | Monomethyl succinate | 7.56 mmol, 1 g | C(CCC(=O)[O-])(=O)OC
reactant | matairesinol | 1 g | COC=1C=C(C=CC1O)C[C@H]2COC(=O)[C@@H]2CC=3C=CC(=C(C3)OC)O | C20H22O6
reactant | pyridine | 1.8 g, 8 eqv. | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 40 ml | C(Cl)Cl | CH2Cl2
product | Matairesinol Methylsuccinate | COC=1C=C(C=CC1O)C[C@H]2COC(=O)[C@@H]2CC=3C=CC(=C(C3)OC)O.CC(C(=O)[O-])CC(=O)[O-] | InChI=1S/C20H22O6.C5H8O4/c1-24-18-9-12(3-5-16(18)21)7-14-11-26-20(23)15(14)8-13-4-6-17(22)19(10-13)25-2;1-3(5(8)9)2-4(6)7/h3-6,9-10,14-15,21-22H,7-8,11H2,1-2H3;3H,2H2,1H3,(H,6,7)(H,8,9)/p-2/t14-,15+;/m0./s1
